US04332944
6-Chloronicotinic acid (3.0 g, 18.98 mmol) is dissolved in 30 ml of tetrahydrofuran (THF), with the temperature of the solution maintained below 30°. A 1 M solution of borane/TMF (19 ml, 19.0 mmol) is added at a rate to maintain a slow evolution of gas. This mixture is stirred at RT overnight. The reaction is poured onto approximately 50 g ice with 2 ml concentrated hydrochloric acid and is stirred for 1 hour. The pH of the reaction is adjusted to 5. The reaction is then extracted with chloroform, washed with water, dried and stripped to give 6-chloro-3-pyridinemethanol. A mixture of this pyridinemethanol (2.5 g, 17.4 mmol) and 1-fluoro- 4-nitrobenzene (2.4 g, 17.4 mmol), dissolved together in 15 ml of THF, is added to a stirring suspension of sodium hydride (0.42 g, 17.4 mmol) in 25 ml of THF at a rate to maintain the temperature below 32° . The mixture is stirred for 1 hour, then diluted with water, extracted with chloroform, washed with water, dried and stripped to give 2-chloro-5-(4-nitrophenoxy)methylpyridine.

reactant | 6-Chloronicotinic acid | 18.98 mmol, 3.0 g | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | borane | B | BH3
reactant | hydrochloric acid | 2 ml | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 6-chloro-3-pyridinemethanol | ClC1=CC=C(C=N1)CO | C6H6ClNO
